US04072498
Following the procedure of Example 1, but substituting 3-(o-tolyl)pyrazole for 4-methyl-3-phenylpyrazole and 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide there was obtained α-ethyl-N,N-dimethyl-3-(o-tolyl)-pyrazole-1-acetamide having a melting point of 48°-51° C.

reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
reactant | 2-bromo-N,N-dimethylbutyramide | BrC(C(=O)N(C)C)CC | C6H12BrNO
reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
product | α-ethyl-N,N-dimethyl-3-(o-tolyl)-pyrazole-1-acetamide | C(C)C(C(=O)N(C)C)N1N=C(C=C1)C1=C(C=CC=C1)C | C16H21N3O
